US08030497B2
f) N-[5-Bromo-3-methoxy-2-(2-methoxy-ethylamino)-phenyl]-4-isopropyl-benzamide
A solution of 4.95 g (18 mmol) 5-bromo-3-methoxy-N*2*-(2-methoxy-ethyl)-benzene-1,2-diamine, 5.15 g (27 mmol) EDC, 3.3 g (27 mmol) 4-dimethylamino-pyridine and 2.94 g (18 mmol) 4-isopropyl benzoic acid in 150 ml dichloromethane is stirred at room temperature for 14 h. After that 400 ml EtOAc are added and the organic phase washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) to afford 7.48 g of the title compound as a reddish oil.

reactant | 5-bromo-3-methoxy-N*2*-(2-methoxy-ethyl)-benzene-1,2-diamine | 18 mmol, 4.95 g | BrC1=CC(=C(C(=C1)N)NCCOC)OC | C10H15BrN2O2
reactant | EDC | 27 mmol, 5.15 g
reactant | 4-isopropyl benzoic acid | 18 mmol, 2.94 g | C(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
catalyst | 4-dimethylamino-pyridine | 27 mmol, 3.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[5-Bromo-3-methoxy-2-(2-methoxy-ethylamino)-phenyl]-4-isopropyl-benzamide | 7.48 g | BrC=1C=C(C(=C(C1)NC(C1=CC=C(C=C1)C(C)C)=O)NCCOC)OC | C20H25BrN2O3
